US06569851B1
Preparation of (S)-3-[(N′-((2,6-Difluorophenyl)aminocarbonyl)-L-alaninyl]amino-2,3-dihydro-1-methyl-5-phenyl-1H-1,4-benzodiazepin-2-one
Following General Procedure (5-A1) using 2,6-difluorophenyl isocyanate and (S)-3-[(L-alaninyl)]amino-2,3-dihydro-1-methyl-5-phenyl-1H-1,4-benzodiazepin-2-one, as described in Example 8-B above, the title compound was prepared. The molecular weight as determined by mass spectrometry (FD) was: 491 (M+H).

reactant | 2,6-difluorophenyl isocyanate | FC1=C(C(=CC=C1)F)N=C=O | C7H3F2NO
reactant | (S)-3-[(L-alaninyl)]amino-2,3-dihydro-1-methyl-5-phenyl-1H-1,4-benzodiazepin-2-one | N[C@@H](C)C(=O)N[C@@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O | C19H20N4O2
product | (N′-((2,6-Difluorophenyl)aminocarbonyl)-L-alaninyl]amino-2,3-dihydro-1-methyl-5-phenyl-1H-1,4-benzodiazepin-2-one | FC1=C(C(=CC=C1)F)NC(=O)N[C@@H](C)C(=O)NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O | C26H23F2N5O3
